US05866583
A suspension of 9.65 g of 4-methyl-[1,2,3]thiadiazol-5-carboxylic acid in 70 ml of dichlormethane was cooled to 5° C. while stirring, treated with 0.15 g of 4-dimethylamino-pyridine and subsequently with 13.8 g of N,N'-dicyclohexyl-carbodiimide at such a rate that the internal temperature <10° C. could be maintained. After completion of the addition, the mixture was cooled to 5° C. and 8.92 g of phenethylamine were added at such a rate that the internal temperature of <37° C. could be maintained. After completion of the addition, the mixture was stirred for a further 1 h., then the precipitate was filtered off under suction, rinsed well with dichloromethane and the filtrate was evaporated. The residual yellow oil was subjected to chromatography on silica gel with hexane/ethyl acetate 50:50. There were obtained 15.66 g (92%) of 4-methyl-[1,2,3]thiadiazole-5-carboxylic acid phenethylamide as a colorless crystallizate of m.p. 64°-68° C. Recrystallization of a sample from tert.-butyl methyl ether gave colorless crystals of m.p. 64.5°-66° C.

reactant | 4-methyl-[1,2,3]thiadiazol-5-carboxylic acid | 9.65 g | CC=1N=NSC1C(=O)O | C4H4N2O2S
reactant | N,N'-dicyclohexyl-carbodiimide | 13.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | phenethylamine | 8.92 g | C(CC1=CC=CC=C1)N | C8H11N
solvent | dichlormethane | 70 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylamino-pyridine | 0.15 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-methyl-[1,2,3]thiadiazole-5-carboxylic acid phenethylamide | 15.66 g, 92% | C(CC1=CC=CC=C1)NC(=O)C1=C(N=NS1)C | C12H13N3OS
